US08049016B2
Preparation of 4-methyl-2-(2-oxo-3-(2-oxo-2-(pyrrolidin-1-yl)ethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Preparation 9, making variations as required to replace ethyl 2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-(2-oxo-2-(pyrrolidin-1-yl)ethyl)imidazolidin-1-yl)thiazole-5-carboxylate, the crude title compound was obtained as a colorless solid in 85% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.84 (br s, 1H), 4.09-4.00 (m, 4H), 3.84 (s, 2H), 3.65-3.57 (m, 2H), 3.42 (t, J=6.7 Hz, 2H), 3.30 (t, J=6.7 Hz, 2H), 2.51 (s, 3H), 1.95-1.84 (m, 2H), 1.83-1.71 (m, 2H); MS (ES+) m/z 339.3 (M+1).

reactant | ethyl 2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1=CC=C(CNC(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)OCC)=O)=O)C=C1 | C19H21FN4O4S
reactant | ethyl 4-methyl-2-(2-oxo-3-(2-oxo-2-(pyrrolidin-1-yl)ethyl)imidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC(N1CCCC1)=O)=O | C16H22N4O4S
product | 4-methyl-2-(2-oxo-3-(2-oxo-2-(pyrrolidin-1-yl)ethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 85% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC(N1CCCC1)=O)=O | C14H18N4O4S
